US06713474B2
c) trans-4-Chloro-5-(3-methoxy-4-phenoxyphenyl)-7-[4-(methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine
The title compound (223 mg, 64%) was prepared from trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine (300 mg, 0.655 mmol) and 2-(3-methoxy-4-phenoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (235 mg, 0.727 mmol) in a similar manner to that described for the preparation of trans-5-(4-chloro-7-(4-(4-methylpiperazino)cyclohexyl)-7H-pyrrolo[2,3-d ]pyrimidin-5-yl)-2-phenoxybenzonitrile: 1H NMR (DMSO-d6, 400 MHz) δ 8.67(s, 1H), 8.04(s, 1H), 7.32(m, 4H), 7.12(d, 1H), 7.08(d, 1H), 6.88(d, 2H), 4.71(m, 1H), 3.80(s, 3H), 2.2-2.6(m, 9H), 2.15(s, 3H), 1.9-2.1 (m, 6H), 1.49(m, 2H); MS MH+532.4; RP-HPLC (Hypersil HS, 5 μm, 100 Å 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 ml/min) tr 9.58 min.

reactant | trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine | 0.655 mmol, 300 mg | ClC=1C2=C(N=CN1)N(C=C2I)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C17H23ClIN5
reactant | 2-(3-methoxy-4-phenoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.727 mmol, 235 mg | COC=1C=C(C=CC1OC1=CC=CC=C1)B1OC(C(O1)(C)C)(C)C | C19H23BO4
reactant | trans-5-(4-chloro-7-(4-(4-methylpiperazino)cyclohexyl)-7H-pyrrolo[2,3-d ]pyrimidin-5-yl)-2-phenoxybenzonitrile | ClC=1C2=C(N=CN1)N(C=C2C=2C=CC(=C(C#N)C2)OC2=CC=CC=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C30H31ClN6O
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | trans-4-Chloro-5-(3-methoxy-4-phenoxyphenyl)-7-[4-(methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine | 223 mg, 64% | ClC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)OC2=CC=CC=C2)OC)[C@@H]2CC[C@H](CC2)N2C(CNCC2)C | C30H34ClN5O2
